US04161594
40.7 g (0.7 mol) of propene oxide are added dropwise over the course of 1 hour to a mixture of 55.3 g of 5,5-diethylbarbituric acid (0.3 mol), 2.77 g of tetraethylammonium chloride (5 mol per cent) and 400 ml of dimethylformamide at 35° C. whilst stirring. Thereafter the mixture is gradually heated to 100° C. After 7 hours' stirring at 100° C. the mixture is worked-up in accordance with example 1. 92.5 g of crude 1,3-di(β-hydroxy-n-propyl)-5,5-diethylbarbituric acid (99.5 % of theory) are obtained. The product boils at 138°-148° C. under 0.08 mm Hg; 75.2 g of pure product 80% of theory) are obtained.

reactant | propene oxide | 0.7 mol, 40.7 g | C1C(C)O1 | C3H6O
reactant | 5,5-diethylbarbituric acid | 0.3 mol, 55.3 g | C(C)C1(C(NC(NC1=O)=O)=O)CC | C8H12N2O3
catalyst | tetraethylammonium chloride | 5 mol, 2.77 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1,3-di(β-hydroxy-n-propyl)-5,5-diethylbarbituric acid | 92.5 g, 99.5 % | OC(CN1C(=O)N(C(=O)C(C1=O)(CC)CC)CC(C)O)C | C14H24N2O5
